US07553854B2
To the solution of (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide (13 mg, 30 μmol) and DIPEA (17 μL, 100 μmol) in 300 μL of NMP was added 2-isocyanatopropane (5 μL, 50 μmol). The reaction solution was stirred at room temperature for 18 hours. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give (S)-4-(2-(1-(isopropylcarbamoyl)piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (5.9 mg, 12 μmol) as white powder. ES/MS m/z 469.2 (MH+).

reactant | (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide | 30 μmol, 13 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CNCCC2)C=C1)=O | C19H21N5O2S
reactant | DIPEA | 100 μmol, 17 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-isocyanatopropane | 50 μmol, 5 μL | N(=C=O)C(C)C | C4H7NO
solvent | NMP | 300 μL | CN1CCCC1=O | C5H9NO
product | (S)-4-(2-(1-(isopropylcarbamoyl)piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 12 μmol, 5.9 mg | C(C)(C)NC(=O)N1C[C@H](CCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C23H28N6O3S
